US06313071B1
In a nitrogen atmosphere, 1.00 g of methyl N-(5-bromo-2-chlorobenzyl)carbamate, 0.20 g of tetrakis(triphenylphosphine)palladium, 0.07 g of copper(I) iodide and 10 ml of piperidine were added to 40 ml of toluene. To this mixed solution, 0.60 g of 3,3-dimethyl-1-butyne was added at 90° C., followed by stirring at 90° C. for 1 hour. The reaction solution was poured into a saturated sodium chloride aqueous solution and extracted with ethyl acetate, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 0.80 g of methyl N-[2-chloro-5-(3,3-dimethyl-1-butynyl)benzyl]carbamate as colorless crystals.

reactant | methyl N-(5-bromo-2-chlorobenzyl)carbamate | 1.00 g | BrC=1C=CC(=C(CNC(OC)=O)C1)Cl | C9H9BrClNO2
reactant | piperidine | 10 ml | N1CCCCC1 | C5H11N
reactant | 3,3-dimethyl-1-butyne | 0.60 g | CC(C#C)(C)C | C6H10
reactant | sodium chloride | [Cl-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.20 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.07 g | [Cu]I
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | methyl N-[2-chloro-5-(3,3-dimethyl-1-butynyl)benzyl]carbamate | 0.80 g | ClC1=C(CNC(OC)=O)C=C(C=C1)C#CC(C)(C)C | C15H18ClNO2
